* Z:\mnt\design.r\spice\examples\3453.asc
L1 N001 N002 4.7µ
V1 N003 0 3.6
R1 0 N008 3.48K
R2 0 N007 8.25K
C2 N006 0 .05µ Rser=1K
D1 N004 N005 LXK2-PW14
C3 N004 0 4.7µ
XU1 N003 N003 N007 N005 0 N005 N005 MP_01 N005 N008 N003 N006 N004 N002 N001 N003 LTC3453
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m startup
.lib LTC3453.sub
.backanno
.end
